US06177419B1
6-(2-Hydroxy-3-methoxyphenyl)-6′-(5-allyl-2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine and 5-allyl-2-hydroxy-3-methoxyphenylboronic acid in 37% yield using method F; δH [2H6]-DMSO 13.53,(1H, s), 13.31,(1H, s), 8.35-8.20,(4H, m), 8.16,(2H, d), 7.70,(1H, s), 7.53,(1H, s), 7.09,(1H, d), 6.93,(2H, m), 6.05,(1H, m), 5.14,(1h, d), 5.06,(1H, d), 3.85,(6H, s), 3.40,(2H, d).

reactant | 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C17H13BrN2O2
reactant | 5-allyl-2-hydroxy-3-methoxyphenylboronic acid | C(C=C)C=1C=C(C(=C(C1)B(O)O)O)OC | C10H13BO4
product | 6-(2-Hydroxy-3-methoxyphenyl)-6′-(5-allyl-2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | 37% yield | OC1=C(C=CC=C1OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC(=C1)CC=C)OC)O | C27H24N2O4
